US06004977
N-[3-(3-Methoxyphenyl)propylidene]-N'-(4-pyridinyl)hydrazine hydrochloride
A slurry of 3-(3-methoxyphenyl)propionaldehyde (6.46 g), 4-hydrazinopyridine hydrochloride (6.30 g) and magnesium sulfate (5 g) in ethanol (75 ml) was heated under reflux, under nitrogen, with stirring, for 45 mins. The reaction mixture was filtered, the filter cake was washed with ethyl acetate, and the filtrate was concentrated in vacuo. The residue was triturated with ethyl acetate to give 7 g (61%) of product, mp 155-156° C.

reactant | 3-(3-methoxyphenyl)propionaldehyde | 6.46 g | COC=1C=C(C=CC1)CCC=O | C10H12O2
reactant | 4-hydrazinopyridine hydrochloride | 6.30 g | Cl.N(N)C1=CC=NC=C1
reactant | magnesium sulfate | 5 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | N-[3-(3-Methoxyphenyl)propylidene]-N'-(4-pyridinyl)hydrazine hydrochloride | 7 g, 61% | Cl.COC=1C=C(C=CC1)CCC=NNC1=CC=NC=C1 | InChI=1S/C15H17N3O.ClH/c1-19-15-6-2-4-13(12-15)5-3-9-17-18-14-7-10-16-11-8-14;/h2,4,6-12H,3,5H2,1H3,(H,16,18);1H
